US07199134B2
(7S)-7-BENZOYLAMINO-7-(QUINOLIN-6-YLCARBAMOYL)-HEPTANOIC ACID TERT-BUTYL ESTER (4b)
To a stirring solution of (7S)-7-amino-7-(quinolin-6-ylcarbamoyl)-heptanoic acid tert-butyl ester (8.0 g, 21.6 mmol) in dry MeCN (100 mL) and to this solution was added benzoyl chloride (2.78 mL, 23.8 mmol) and triethylamine (6.1 mL, 43.2 mmol). The solution was stirred at 0° C. for 1 h, then at RT for 2 h. The solvent was removed, and residue was dissolved in 400 mL EtOAc, and stirred with 100 mL 0.5 M NaHCO3 for 1 h. The aqueous layer was removed, and the organic layer was washed with 100 mL 0.5 M NaHCO3, then with 50 mL water. The solution was dried over anhydrous Na2SO4. The product (8.1 g) was obtained after column purification (EtOAc as eluent) in 78.8% yield as a thick oil. 1H NMR (CDCl3) δ 9.40 (1H, s), 8.80 (1H, d), 8.22 (1H, d), 8.0–7.0 (10H, m), 5.0 (1H, m), 2.2–1.2 (19H, m). MS (ESI): (MH+) 476.1.

reactant | (7S)-7-amino-7-(quinolin-6-ylcarbamoyl)-heptanoic acid tert-butyl ester | 21.6 mmol, 8.0 g | C(C)(C)(C)OC(CCCCC[C@@H](C(NC=1C=C2C=CC=NC2=CC1)=O)N)=O | C21H29N3O3
reactant | benzoyl chloride | 23.8 mmol, 2.78 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 43.2 mmol, 6.1 mL | C(C)N(CC)CC | C6H15N
solvent | MeCN | 100 mL | CC#N | C2H3N
product | (7S)-7-BENZOYLAMINO-7-(QUINOLIN-6-YLCARBAMOYL)-HEPTANOIC ACID TERT-BUTYL ESTER | 8.1 g, 78.8% yield | C(C)(C)(C)OC(CCCCC[C@@H](C(NC=1C=C2C=CC=NC2=CC1)=O)NC(C1=CC=CC=C1)=O)=O | C28H33N3O4
